US06051712
In an analogous manner to that described in Example 62(h), by alkylating tert-butyl (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-hydroxy-5-propyl-piperidine-1-carboxylate with 4-methoxybenzyl chloride there was obtained tert-butyl (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-(4-methoxy-benzyloxy)-5-propyl-piperidine-1-carboxylate as a colourless solid, MS: 416 (M-C4H9)+.

reactant | tert-butyl (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-hydroxy-5-propyl-piperidine-1-carboxylate | ClC1=CC=C(C=C1)C1C(CN(CC1CCC)C(=O)OC(C)(C)C)O | C19H28ClNO3
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | tert-butyl (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-(4-methoxy-benzyloxy)-5-propyl-piperidine-1-carboxylate | ClC1=CC=C(C=C1)C1C(CN(CC1CCC)C(=O)OC(C)(C)C)OCC1=CC=C(C=C1)OC | C27H36ClNO4
